US09447036B2
1-Benzyl-3-(3,5-dichlorophenyl)-4-(methylsulfonyl)-3-(trifluoromethyl)pyrrolidine (2.00 g, 95% purity, 4.13 mmol) was dissolved in toluene (40 mL) under a nitrogen atmosphere and sodium carbonate (1.31 g, 12.4 mmol) was added. The reaction mixture was heated to reflux for 150 minutes and cooled to room temperature. Water (20 mL) was added, the mixture stirred for 5 minutes and the phases separated. The water phase was extracted with toluene (20 mL) and solvent of the combined organic phases was evaporated under vacuum. The crude material was dissolved in warm n-heptane and after standing and cooling the forming crystals were filtered off to yield 1-benzyl-3-(3,5-dichlorophenyl)-3-(trifluoromethyl)-2,3-dihydro-1H-pyrrole (972 mg, 95% purity, 60% yield).

reactant | 1-Benzyl-3-(3,5-dichlorophenyl)-4-(methylsulfonyl)-3-(trifluoromethyl)pyrrolidine | 4.13 mmol, 2.00 g | C(C1=CC=CC=C1)N1CC(C(C1)S(=O)(=O)C)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C19H18Cl2F3NO2S
reactant | sodium carbonate | 12.4 mmol, 1.31 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | 20 mL | O | H2O
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 1-benzyl-3-(3,5-dichlorophenyl)-3-(trifluoromethyl)-2,3-dihydro-1H-pyrrole | 972 mg, 60% yield | C(C1=CC=CC=C1)N1CC(C=C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C18H14Cl2F3N
